US07632838B2
A solution of 1-[3-(trifluoromethyl)-2-pyridyl]piperazine (60 mg, 0.26 mmol), and Benzene sulfonyl chloride (0.043 mL, 0.31 mmol) in DCM (4 mL) and saturated sodium bicarbonate (2 mL) was stirred at room temperature for 12 hours. The mixture was diluted with DCM (5 mL) and water (5 mL). The organic layer was collected and washed two times with water, dried with magnesium sulfate, and concentrated. The product was purified using column chromatography (20% Ethyl Acetate in Hexanes) to produce 1-(phenylsulfonyl)-4-[3-(trifluoromethyl)pyridin-2-yl]piperazine (81.1 mg, 84%).

reactant | 1-[3-(trifluoromethyl)-2-pyridyl]piperazine | 0.26 mmol, 60 mg | FC(C=1C(=NC=CC1)N1CCNCC1)(F)F | C10H12F3N3
reactant | Benzene sulfonyl chloride | 0.31 mmol, 0.043 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | 2 mL | C([O-])(O)=O.[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | 1-(phenylsulfonyl)-4-[3-(trifluoromethyl)pyridin-2-yl]piperazine | 81.1 mg, 84% | C1(=CC=CC=C1)S(=O)(=O)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F | C16H16F3N3O2S
